US07074800B1
A mixture of (2R)-4-(indol-5-yloxy)-6-methoxy-7-(oxiran-2-ylmethoxy)quinazoline (300 mg, 0.83 mmol), (prepared as described for the starting material in Example 292), and dimethylamine (1.24 ml of a 2M solution in THF, 2.48 mmol) in DMF (5 ml) was stirred at 75° C. for 3 hours under an atmosphere of nitrogen then allowed to cool to ambient temperature. The solvents were removed in vacuo and the residue purified by trituration with methanol to give (2R)-7-(2-hydroxy-3-dimethylaminopropoxy)4-(indol-5-yloxy)-6-methoxyquinazoline (265 mg, 63%).

reactant | (2R)-4-(indol-5-yloxy)-6-methoxy-7-(oxiran-2-ylmethoxy)quinazoline | 0.83 mmol, 300 mg | N1C=CC2=CC(=CC=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@@H]1OC1 | C20H17N3O4
reactant | dimethylamine | CNC | C2H7N
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (2R)-7-(2-hydroxy-3-dimethylaminopropoxy)4-(indol-5-yloxy)-6-methoxyquinazoline | 265 mg, 63% | O[C@@H](COC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=CC1)OC)CN(C)C | C22H24N4O4
